US09260442B2
tert-butyl N-[1-[[(5-bromo-2-chloro-pyrimidin-4-yl)amino]methyl]cyclopentyl]carbamate was synthesized by treating 5-bromo-2,4-dichloropyrimidine with tert-butyl N-[1-(aminomethyl)cyclopentyl]carbamate using similar experimental conditions as described for the synthesis of tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]ethyl]carbamate. LCMS (ESI) 405 (M+H).

reactant | 5-bromo-2,4-dichloropyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | tert-butyl N-[1-(aminomethyl)cyclopentyl]carbamate | NCC1(CCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]ethyl]carbamate | BrC=1C(=NC(=NC1)Cl)NCCNC(OC(C)(C)C)=O | C11H16BrClN4O2
product | tert-butyl N-[1-[[(5-bromo-2-chloro-pyrimidin-4-yl)amino]methyl]cyclopentyl]carbamate | BrC=1C(=NC(=NC1)Cl)NCC1(CCCC1)NC(OC(C)(C)C)=O | C15H22BrClN4O2
